US05250531
4-(2-Chlorophenyl)1,4-dihydro-5-ethoxycarbonyl-2-methoxy-6-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]pyrimidine
A mixture of 3-(2-chlorophenyl)-2-ethoxycarbonyl-1-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]prop-2-ene-1-one (200 mg --see Preparation 1), O-methylisourea hydrogen sulphate (155 mg) and sodium bicarbonate (240 mg) was heated in dimethylformamide (DMF) (5 ml) at 70° C. for 16 hours. The cooled mixture was poured into water (25 ml) and extracted with ethyl acetate (3×25 ml). The combined organic phases were washed with water, dried (MGSO4), filtered and evaporated and the residue was chromatographed on silica eluting with methylene ebloride/metbanol. The fractions containing the product were combined and evaporated to give the title compound (105 mg), m.p. 228°-232° C.

reactant | 3-(2-chlorophenyl)-2-ethoxycarbonyl-1-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]prop-2-ene-1-one | 200 mg | ClC1=C(C=CC=C1)C=C(C(=O)C1=CC=C(C=C1)N1C(=NC=2C=NC=CC21)C)C(=O)OCC | C25H20ClN3O3
reactant | O-methylisourea hydrogen sulphate | 155 mg | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium bicarbonate | 240 mg | C([O-])(O)=O.[Na+]
reactant | water | 25 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-Chlorophenyl)1,4-dihydro-5-ethoxycarbonyl-2-methoxy-6-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]pyrimidine | 105 mg | ClC1=C(C=CC=C1)C1N=C(NC(=C1C(=O)OCC)C1=CC=C(C=C1)N1C(=NC=2C=NC=CC21)C)OC | C27H24ClN5O3
